US08754079B2
XXXXXXI.1. 2-(cyclopent-3-enyloxy)-4-fluoro-1-nitrobenzene
To a mixture of 5-fluoro-2-nitrophenol (1.57 g), 2-cyclopentenol (1.00 g) and triphenylphosphine (3.15 g) in methylene chloride (30.0 ml) was added at 0° C. diethylazodicarboxylate (1.89 ml). After stirring at room temperature overnight the reaction mixture was concentrated in vacuo. The residue was purified by chromatography to give the desired product.

reactant | 5-fluoro-2-nitrophenol | 1.57 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 2-cyclopentenol | 1.00 g | C1(C=CCC1)O | C5H8O
reactant | triphenylphosphine | 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.89 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 30.0 ml | C(Cl)Cl | CH2Cl2
product | 2-(cyclopent-3-enyloxy)-4-fluoro-1-nitrobenzene | C1(CC=CC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H10FNO3
